US04814450
A solution of 12.41 g of N-methoxycarbonyl-3-carboethoxy-acetyl-4-pyrrolidino-2,5-dihydropyrrole, 9.64 ml of N,N-dimethylformamide dimethylacetal and 10 mg of urea in 50 ml of dioxane is stirred under nitrogen for 16 hours. Evaporation of the solvent yields N-methoxycarbonyl-3-(2-ethoxycarbonyl-3-dimethylaminoacryloyl)-4-pyrrolidino-2,5-dihydropyrrole as an oil.

reactant | N-methoxycarbonyl-3-carboethoxy-acetyl-4-pyrrolidino-2,5-dihydropyrrole | 12.41 g | COC(=O)N1C(C(=C(C1)N1CCCC1)C(=O)OCC)C(C)=O | C15H22N2O5
reactant | N,N-dimethylformamide dimethylacetal | 9.64 ml | COC(N(C)C)OC | C5H13NO2
reactant | urea | 10 mg | NC(=O)N | CH4N2O
reactant | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | N-methoxycarbonyl-3-(2-ethoxycarbonyl-3-dimethylaminoacryloyl)-4-pyrrolidino-2,5-dihydropyrrole | COC(=O)N1CC(=C(C1)N1CCCC1)C(C(=CN(C)C)C(=O)OCC)=O | C18H27N3O5
